US09402841B2
Step C: (S)-tert-butyl 3-((7-chloro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To a mixture of (S)-tert-butyl 3-((7-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (350 mg, 0.862 mmol) in dioxane (8 mL) was added CDI (210 mg, 1.293 mmol). The reaction mixture was heated to reflux for 2 hours and was subsequently concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (200 mg, 57%).

reactant | (S)-tert-butyl 3-((7-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 0.862 mmol, 350 mg | ClC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H24ClN5O3
reactant | CDI | 1.293 mmol, 210 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 3-((7-chloro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 200 mg, 57% | ClC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NNC(N1)=O | C20H22ClN5O4
